US05130453
S-Methyl 3,5-dioxo-4-propionylcyclohexanethiocarboximidate hydrochloride
5.0 g (0.026 mol) of 3,5-dioxo-4-propionylcyclohexanecarbonitrile and 1.37 g (0.028 mol) of methyl mercaptan were dissolved in 100 ml of dry diethyl ether. The solution was cooled to 0° C. and then a vigorous stream of dry hydrogen chloride was passed through it. After 0.5 h the gas stream was turned off, and the reaction mixture was slowly warmed to room temperature. It was again cooled to 0° C., hydrogen chloride was passed in (0.5 h) and then the cooling was removed and the mixture was left to stand overnight. The crystals which formed were filtered off with suction and dried in vacuo: 5.4 g (74% of theory) of compound 2.1 [melting point 161° C. (decomposition)].

reactant | 3,5-dioxo-4-propionylcyclohexanecarbonitrile | 0.026 mol, 5.0 g | O=C1CC(CC(C1C(CC)=O)=O)C#N | C10H11NO3
reactant | methyl mercaptan | 0.028 mol, 1.37 g | CS | CH4S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | S-Methyl 3,5-dioxo-4-propionylcyclohexanethiocarboximidate hydrochloride | Cl.O=C1CC(CC(C1C(CC)=O)=O)C(=N)SC | InChI=1S/C11H15NO3S.ClH/c1-3-7(13)10-8(14)4-6(5-9(10)15)11(12)16-2;/h6,10,12H,3-5H2,1-2H3;1H
